US06566366B1
c) 5-Formyl-thiophene-2-carboxylic Acid tert-Butyl Ester
2.54 g (9 mmol) of 5-(1,3-dimethyl-imidazolidin-2-yl)-thiophene-2-carboxylic acid tert-butyl ester wered dissolved in 15 ml of diethyl ether, and after addition of 5 ml of methyl iodide the solution was stirred overnight at room temperature. The resulting crystalline suspension was vigourously stirred for 1 hour with 100 ml water. Then 100 ml diethyl ether were added, and after separation of the phases the organic phase was dried with anhydrous magnesium sulfate. After filtration, the solvents were removed in vacuo. 1.7 g of a light brown oil were isolated which was sufficiently pure for use in the subsequent step.

reactant | 5-(1,3-dimethyl-imidazolidin-2-yl)-thiophene-2-carboxylic acid tert-butyl ester | 9 mmol, 2.54 g | C(C)(C)(C)OC(=O)C=1SC(=CC1)C1N(CCN1C)C | C14H22N2O2S
reactant | methyl iodide | 5 ml | CI | CH3I
reactant | water | 100 ml | O | H2O
solvent | diethyl ether | 15 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | 5-Formyl-thiophene-2-carboxylic Acid tert-Butyl Ester | 1.7 g | C(C)(C)(C)OC(=O)C=1SC(=CC1)C=O | C10H12O3S
